US08404736B2
Step 2 2-azido-3-(4-bromo-5-methyl-thiophen-2-yl)-acrylic acid methyl ester
To a solution of azido-acetic acid methyl ester (25 g, 220 mmol) and 4-bromo-5-methyl-thiophene-2-carbaldehyde (15 g, 73 mmol) in 50 ml of MeOH cooled at −25° C. was added a solution NaOMe in MeOH (51 ml, 4.36 M). The resulting mixture (slush) was stirred with a mechanical stirrer for 2 h at 0° C. and the 200 g of ice was added. The yellow solid was collected by filtration and air-dried to give 18 g of the title product which was used for the next step without further purification.

reactant | azido-acetic acid methyl ester | 220 mmol, 25 g | COC(CN=[N+]=[N-])=O | C3H5N3O2
reactant | 4-bromo-5-methyl-thiophene-2-carbaldehyde | 73 mmol, 15 g | BrC=1C=C(SC1C)C=O | C6H5BrOS
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | MeOH | 4.36 M, 51 ml | CO | CH4O
product | 2-azido-3-(4-bromo-5-methyl-thiophen-2-yl)-acrylic acid methyl ester | 18 g | COC(C(=CC=1SC(=C(C1)Br)C)N=[N+]=[N-])=O | C9H8BrN3O2S
